US07427635B2
{(R)-[(1S,2S)-2-Phenyl-1-(4-propionyl-thiazol-2-ylcarbamoyl)-propylcarbamoyl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-carbamic acid tert-butyl ester (110 mg, 0.16 mmol) was dissolved in a 30% v/v solution of trifluoroacetic acid in dichloromethane (5 mL) at 0° C. After stirring for 1.5 hours the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous layer was adjusted to pH=8 by the addition of solid sodium bicarbonate. The aqueous layer was again extracted with ethyl acetate (2×). The combined organic layers was dried over sodium sulfate, filtered and concentrated in vacuo to give crude (2S,3S)-2-{(R)-2-amino-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide which was used immediately and without further purification.

reactant | {(R)-[(1S,2S)-2-Phenyl-1-(4-propionyl-thiazol-2-ylcarbamoyl)-propylcarbamoyl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-carbamic acid tert-butyl ester | 0.16 mmol, 110 mg | C(C)(C)(C)OC(N[C@H](C1=CC=C(C=C1)OCCN1CCCCC1)C(N[C@@H]([C@@H](C)C1=CC=CC=C1)C(NC=1SC=C(N1)C(CC)=O)=O)=O)=O | C36H47N5O6S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,3S)-2-{(R)-2-amino-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide | N[C@@H](C(=O)N[C@H](C(=O)NC=1SC=C(N1)C(CC)=O)[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H39N5O4S
